US09422279B2
To a solution of 5-(4-(bromomethyl)-5,6-dihydro-2H-pyran-3-yl)-1-isopropyl-1H-pyrazole (110 mg, 0.38 mmol) and 2,6-dihydroxybenzaldehyde (100 mg, 0.76 mmol) in DMF (6 mL) was added K2CO3 (110 mg, 0.76 mmol). After stirred at room temperature for 1 h, it was diluted with water and EtOAc, organic layer was separated, and the aqueous layer was extracted with EtOAc. Organic layer was combined, washed with brine, dried and concentrated to give crude product, which was purified by column (Hexanes/EtOAc=1:1) to give 2-hydroxy-6-((5-(1-isopropyl-1H-pyrazol-5-yl)-3,6-dihydro-2H-pyran-4-yl)methoxy)benzaldehyde (90 mg). 1H NMR (400 MHz, CDCl3) 8 (ppm) 11.89 (s, 1H), 10.33 (s, 1H), 7.53 (d, J=1.6 Hz, 1H), 7.33 (t, J=8.8 Hz, 1H), 6.51 (d, J=8.8 Hz, 1H), 6.16 (d, J=8.0 Hz, 1H), 6.08 (d, J=2.0 Hz, 1H), 4.40 (dd, J=12.8, 6.4 Hz, 1H), 4.35 (s, 2H), 4.18 (s, 2H), 3.97 (t, J=5.2 Hz, 2H), 2.44 (s, 2H), 1.40 (d, J=6.4 Hz, 6H); MS (ESD m/z 343.3 [M+H]+.

reactant | 5-(4-(bromomethyl)-5,6-dihydro-2H-pyran-3-yl)-1-isopropyl-1H-pyrazole | 0.38 mmol, 110 mg | BrCC1=C(COCC1)C1=CC=NN1C(C)C | C12H17BrN2O
reactant | 2,6-dihydroxybenzaldehyde | 0.76 mmol, 100 mg | OC1=C(C=O)C(=CC=C1)O | C7H6O3
reactant | K2CO3 | 0.76 mmol, 110 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-hydroxy-6-((5-(1-isopropyl-1H-pyrazol-5-yl)-3,6-dihydro-2H-pyran-4-yl)methoxy)benzaldehyde | 90 mg | OC1=C(C=O)C(=CC=C1)OCC=1CCOCC1C1=CC=NN1C(C)C | C19H22N2O4
